US08497281B2
(cis-2,3,4,4a,9,9a-Hexahydro-indeno[2,1-b]pyridin-1-yl)-imidazo[1,2-a]pyridin-6-yl-methanone
The title compound is prepared from imidazo[1,2-a]pyridine-6-carboxylic acid and cis-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine following a procedure analogous to that described in Example 1 [2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexa-fluorophosphate is used]. Yield: 85% of theory; LC (method 3): tR=1.81 min; Mass spectrum (ESI+): m/z=318 [M+H]+.

reactant | imidazo[1,2-a]pyridine-6-carboxylic acid | N=1C=CN2C1C=CC(=C2)C(=O)O | C8H6N2O2
reactant | cis-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine | N1[C@@H]2[C@H](CCC1)C=1C=CC=CC1C2 | C12H15N
reactant | 2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexa-fluorophosphate | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
product | (cis-2,3,4,4a,9,9a-Hexahydro-indeno[2,1-b]pyridin-1-yl)-imidazo[1,2-a]pyridin-6-yl-methanone | Yield: 85% | N1([C@@H]2[C@H](CCC1)C=1C=CC=CC1C2)C(=O)C=2C=CC=1N(C2)C=CN1 | C20H19N3O
